US07589232B2
Step c) Formation of 3-[(3-cyclopentylpropanoyl)(4-dec-1-yn-1-ylbenzyl)amino]benzoic acid
The titled compound was prepared following the procedure F using methyl 3-[(3-cyclopentylpropanoyl)(4-dec-1-yn-1-ylbenzyl)amino]benzoate and NaOH 5N aq in the presence of MeOH as a pale yellow oil (86%). 1H NMR (CDCl3, 300 MHz) δ 8.07 (d, J=7.5 Hz, 1H), 7.83 (s, 1H), 7.43 (m, 1H), 7.31 (d, J=7.9 Hz, 2H), 7.12 (m, 3H), 4.90 (s, 2H), 2.39 (t, J=7.0 Hz, 2H), 2.09 (m, 21H), 1.62-1.30 (m, 21H), 0.96 (m, 2H), 0.89 (t, J=6.6 Hz, 3H). M− (ESI): 486.6; M+ (ESI): 488.5. HPLC, Rt: 5.8 min (Purity: 100%).

reactant | methyl 3-[(3-cyclopentylpropanoyl)(4-dec-1-yn-1-ylbenzyl)amino]benzoate | C1(CCCC1)CCC(=O)N(C=1C=C(C(=O)OC)C=CC1)CC1=CC=C(C=C1)C#CCCCCCCCC | C33H43NO3
reactant | NaOH | 5N | [OH-].[Na+]
solvent | MeOH | CO | CH4O
product | 3-[(3-cyclopentylpropanoyl)(4-dec-1-yn-1-ylbenzyl)amino]benzoic acid | C1(CCCC1)CCC(=O)N(C=1C=C(C(=O)O)C=CC1)CC1=CC=C(C=C1)C#CCCCCCCCC | C32H41NO3
